US08067408B2
Methyl 3-{[[(6-fluoro-3′-formyl-3-biphenylyl)methyl](methyl)amino]carbonyl}benzoate
To a solution of methyl 3-{[[(3-bromo-4-fluorophenyl)methyl]-(methyl)amino]carbonyl}benzoate (0.20 g, 0.526 mmol) in p-dioxane/H2O (4.5/1.5 mL) was added (4-formylphenyl)boronic acid (0.118 g, 0.789 mmol), Pd(PPh3)4 (0.030 g, 0.026 mmol), and K2CO3 (0.29 mL, 2.1 mmol). The mixture was heated in a microwave at 130° C. for 15 min. It was then filtered, concentrated and the concentrate purified by CombiFlash chromatograph to afford the title compound 0.184 g (86%). LC-MS m/z 406 (M+H)+.

reactant | methyl 3-{[[(3-bromo-4-fluorophenyl)methyl]-(methyl)amino]carbonyl}benzoate | 0.526 mmol, 0.20 g | BrC=1C=C(C=CC1F)CN(C(=O)C=1C=C(C(=O)OC)C=CC1)C | C17H15BrFNO3
reactant | (4-formylphenyl)boronic acid | 0.789 mmol, 0.118 g | C(=O)C1=CC=C(C=C1)B(O)O | C7H7BO3
reactant | K2CO3 | 2.1 mmol, 0.29 mL | C(=O)([O-])[O-].[K+].[K+]
solvent | p-dioxane H2O | 1.5 mL | O1CCOCC1.O
catalyst | Pd(PPh3)4 | 0.026 mmol, 0.030 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | Methyl 3-{[[(6-fluoro-3′-formyl-3-biphenylyl)methyl](methyl)amino]carbonyl}benzoate | 0.184 g, 86% | FC1=CC=C(C=C1C1=CC(=CC=C1)C=O)CN(C(=O)C=1C=C(C(=O)OC)C=CC1)C | C24H20FNO4
